US08975415B2
The mixture of 4-bromo-2-iodophenol (3.30 g, 11.04 mmol), 1-bromo-5-chloropentan-2-one (75% purity, 3.9 g, 14.66 mmol), and K2CO3 (2.3 g, 16.64 mmol) in acetone (66 mL) was stirred for 48 hours at ambient temperature. The insoluble material was removed by filtration and washed with EtOAc. The filtrate was evaporated in vacuo. The residue was purified by silicagel column chromatography (EtOAc-hexane, a linear gradient of EtOAc from 0 to 25%) afforded 1-(4-bromo-2-iodophenoxy)-5-chloropentan-2-one (2.12 g).

reactant | 4-bromo-2-iodophenol | 11.04 mmol, 3.30 g | BrC1=CC(=C(C=C1)O)I | C6H4BrIO
reactant | 1-bromo-5-chloropentan-2-one | 14.66 mmol, 3.9 g | BrCC(CCCCl)=O | C5H8BrClO
reactant | K2CO3 | 16.64 mmol, 2.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 66 mL | CC(=O)C | C3H6O
product | 1-(4-bromo-2-iodophenoxy)-5-chloropentan-2-one | 2.12 g | BrC1=CC(=C(OCC(CCCCl)=O)C=C1)I | C11H11BrClIO2
